### PR TITLE
Fix minor issues in archimedean.v and amend changelog entries for #1250

### PR DESCRIPTION
**Pull request by pi8027**
##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- ~[ ] added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: doc/changelog/02-changed/1250-archimedean-mixin.md [hunk 1]
```diff
@@ -1,4 +1,5 @@
 - in `archimedean.v`
-  + definition of `ceil` (use lemma `ceilNfloor` explicitly)
+  + the definition of archimedean structures now include `Num.floor` and `Num.ceil`
+  + as its consequence, `Num.ceil x = - Num.floor (- x)` does not hold definitionally anymore (use lemma `ceilNfloor` instead)
     ([#1250](https://github.com/math-comp/math-comp/pull/1250),
     by Kazuhiko Sakaguchi).
```
Comment (pi8027) [inline doc/changelog/02-changed/1250-archimedean-mixin.md:5]: It's not at all specific to this PR, but I found it a bit weird that the PR number and the attribution belong to the last item when we have several items like this.

Comment (affeldt-aist) [reply doc/changelog/02-changed/1250-archimedean-mixin.md:5]: Putting attributions in the changelog seems to cause some problems [1], maybe we can think of not putting them inside the changelog, after all this is not the main purpose of the changelog to record this information, yet the PR link and the git hashes are here to trace it back if necessary

[1] Speaking of attributions, there is also the issue of backports from MathComp-Analysis and other libraries, attributions are even harder to trace back in these situations

File: algebra/archimedean.v [hunk 2]
```diff
@@ -939,8 +936,14 @@ HB.factory Record NumDomain_hasTruncn R of Num.NumDomain R := {
...
+#[deprecated(since="mathcomp 2.4.0",
+             note="Use NumDomain_hasTruncn instead.")]
+Notation NumDomain_isArchimedean R := (NumDomain_hasTruncn R) (only parsing).
+
 Module NumDomain_isArchimedean.
-Notation Build R := (NumDomain_hasTruncn.Build R).
+#[deprecated(since="mathcomp 2.4.0",
+             note="Use NumDomain_hasTruncn.Build instead.")]
+Notation Build T U := (NumDomain_hasTruncn.Build T U) (only parsing).
 End NumDomain_isArchimedean.
```
Comment (pi8027) [inline algebra/archimedean.v:947]: We have a changelog entry for this renaming in `03-renamed` but not `05-deprecated`. I will fix it.

Comment (proux01) [reply algebra/archimedean.v:947]: Renamed is a particular case of deprecation, not sure it's worth duplicating the information.

Comment (pi8027) [reply algebra/archimedean.v:947]: Looking at how it is done in the CHANGELOG, you are probably right.

File: algebra/archimedean.v [hunk 3]
```diff
@@ -570,7 +569,7 @@ Lemma truncn_itv x : 0 <= x -> (truncn x)%:R <= x < (truncn x).+1%:R.
 Proof. by move=> x_ge0; move: (truncnP x); rewrite x_ge0. Qed.
 
 Lemma truncn_le x : (truncn x)%:R <= x = (0 <= x).
-Proof. by have := (truncnP x); case: ifP => [+ /andP[] | + /eqP->//]. Qed.
+Proof. by have := truncnP x; case: ifP => [+ /andP[] | + /eqP->//]. Qed.
```
Comment (proux01) [inline algebra/archimedean.v:572]: Why not
```suggestion
Proof. by case: ifP (truncnP x) => [+ /andP[] | + /eqP->//]. Qed.
```

**Review by proux01 — APPROVED** [review]

File: doc/changelog/02-changed/1250-archimedean-mixin.md (hunk 1 above)
Comment (pi8027) [reply doc/changelog/02-changed/1250-archimedean-mixin.md:5]: @affeldt-aist Can you open an issue and (add it to the topics for the next meeting, if discussing it in two weeks is not too late)?
